US06727264B1
N-(3-{1-[5-(4-NITROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure K and Scheme B1 using 5-chloro-1-(4-nitrophenyl)-1-pentanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 450.1 (M+H)+.

reactant | 5-chloro-1-(4-nitrophenyl)-1-pentanone | ClCCCCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12ClNO3
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[5-(4-NITROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | [N+](=O)([O-])C1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)=O | C26H31N3O4
